** sch_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/vco/tb_CMOSVCO_v7p1_GF180-5V.sch
**.subckt tb_CMOSVCO_v7p1_GF180-5V
x1 VCONT VSS VDD V_1 V_2 Esm22_CMOSVCOlowG_v7p1_GF180-5V
**** begin user architecture code

vvdd vdd 0 dc 5
vvss vss 0 0
vvcont VCONT 0 dc 1.65
*.option temp = 200
.ic v(V_1) = 0
.ic v(V_2) = 5
.save v(V_1)

.control
*   compose vin_var start=0.1 stop=0.91 step=0.06
   compose vin_var start=1.1 stop=3.31 step=0.12
   foreach val $&vin_var
     alter vvcont $val
     tran 5n 50u
   end
wrdata /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/vco/simulations/data_CMOSVCOlowG_v7p1_GF180-5V.txt v(V_1) tran1.v(V_1) tran2.v(V_1) tran3.v(V_1) tran4.v(V_1) tran5.v(V_1) tran6.v(V_1) tran7.v(V_1) tran8.v(V_1) tran9.v(V_1) tran10.v(V_1) tran11.v(V_1) tran12.v(V_1) tran13.v(V_1) tran14.v(V_1) tran15.v(V_1) tran16.v(V_1) tran17.v(V_1) tran18.v(V_1) tran19.v(V_1)
*wrdata /foss/designs/Chipathon2025_Esm22/data_CMOSVCOlowG_v4p2_IHP.txt v(V_1) tran1.v(V_1) tran2.v(V_1) tran3.v(V_1) tran4.v(V_1) tran5.v(V_1) tran6.v(V_1) tran7.v(V_1) tran8.v(V_1) tran9.v(V_1) tran10.v(V_1) tran11.v(V_1) tran12.v(V_1) tran13.v(V_1) tran14.v(V_1)
plot tran1.v(V_1) (tran10.v(V_1)+4) (tran19.v(V_1)+8)
*plot tran1.v(V_1) (tran7.v(V_1)+4) (tran14.v(V_1)+8)
.endc



.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical

**** end user architecture code
**.ends

* expanding   symbol:  vco/Esm22_CMOSVCOlowG_v7p1_GF180-5V.sym # of pins=5
** sym_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/vco/Esm22_CMOSVCOlowG_v7p1_GF180-5V.sym
** sch_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/vco/Esm22_CMOSVCOlowG_v7p1_GF180-5V.sch
.subckt Esm22_CMOSVCOlowG_v7p1_GF180-5V VCONT VSS VDD V_1 V_2
*.ipin VCONT
*.iopin VDD
*.iopin VSS
*.opin V_1
*.opin V_2
x1 VDD VCONT V_1 V_5 VSS stage_v7p1_GF180-5V
x2 VDD VCONT V_2 V_1 VSS stage_v7p1_GF180-5V
x3 VDD VCONT V_3 V_2 VSS stage_v7p1_GF180-5V
x4 VDD VCONT V_4 V_3 VSS stage_v7p1_GF180-5V
x5 VDD VCONT V_5 V_4 VSS stage_v7p1_GF180-5V
.ends


* expanding   symbol:  vco/stage_v7p1_GF180-5V.sym # of pins=5
** sym_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/vco/stage_v7p1_GF180-5V.sym
** sch_path: /foss/designs/SSCS-Chipathon-2025_AC3E-Chile-team/xschem/vco/stage_v7p1_GF180-5V.sch
.subckt stage_v7p1_GF180-5V VDD VCONT VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
*.ipin VCONT
XMN1 net4 net4 VSS VSS nfet_05v0 L=0.70u W=7u nf=7 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN2 net3 net4 VSS VSS nfet_05v0 L=0.70u W=7u nf=7 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN3 net2 net4 VSS VSS nfet_05v0 L=0.70u W=4u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN4 VOUT VIN net2 VSS nfet_05v0 L=5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP2 net3 net3 VDD VDD pfet_05v0 L=4u W=8u nf=8 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP3 net1 net3 VDD VDD pfet_05v0 L=4u W=5u nf=5 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP1 net4 VCONT VDD VDD pfet_05v0 L=7u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP4 VOUT VIN net1 VDD pfet_05v0 L=5u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP5 net4 VSS VDD VDD pfet_05v0 L=7u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

.end
